US07723333B2
tert-Butyl 3-{2-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl}azetidine-1-carboxylate
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (74 mg, 0.249 mmol) was dissolved in dry DMF (1 mL) nitrogen atmosphere. tert-Butyl 3-(2-aminoethyl)azetidine-1-carboxylate (50 mg, 0.249 mmol) was added followed by TEA (25 mg, 0.247 mmol) and the reaction mixture was heated in a microwave reactor for at 120° C. for 20 mins. The reaction mixture was diluted with EtOAc, washed with saturated aqueous NaHCO3-solution, dried over Na2SO4, filtered and evaporated. The crude product was purified by preparative HPLC affording the title compound (33 mg, 28.8%). 1H NMR (500 MHz, CDCl3): δ 1.43 (s, 9H), 1.62 (q, 2H), 1.73 (s, 9H), 2.19-2.27 (m, 1H), 2.83 (q, 2H), 3.23-3.26 (m, 2H), 3.84 (t, 2H), 5.25 (t, 1H), 7.42-7.51 (m, 5H); 13C NMR (125 MHz, CDCl3): δ 26.24, 27.82, 28.61, 34.35, 41.72, 54.06, 61.82, 79.63, 107.55, 125.15, 128.93, 130.09, 131.79, 135.04, 156.38, 159.81; Mass Spectrum: M−H+ 462.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.249 mmol, 74 mg | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | tert-Butyl 3-(2-aminoethyl)azetidine-1-carboxylate | 0.249 mmol, 50 mg | NCCC1CN(C1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 3-{2-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl}azetidine-1-carboxylate | 33 mg, 28.8% | C(C)(C)(C)N1S(C(=C(C1=O)NCCC1CN(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1)(=O)=O | C23H33N3O5S
